US07977344B2
2-Butyloxy-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purin-6-amine
A mixture of 2-butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt (223 mg) and potassium carbonate (264 mg) in dry DMF (2 mL) were heated at 60° C. under nitrogen with stirring for 1 h. 4-(Bromomethyl)-2,2-dimethyltetrahydro-2H-pyran (158 mg) was added and the reaction was stirred for 16 h at 60° C. The mixture was quenched with water and extracted with EtOAc (×3). The combined organics were washed with water and brine, dried using a hydrophobic frit and evaporated to give a brown oil. The crude material was purified by normal phase chromatography (ISCO) using 5-20% methanol/EtOAc as eluent to give a pale oil (181 mg). The material was re-purified by normal phase chromatography (ISCO) using 0-15% methanol/EtOAc as eluent to give the title compound (161 mg).

reactant | 2-butoxy-8-methoxy-9H-purin-6-amine trifluoroacetate salt | 223 mg | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 264 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(Bromomethyl)-2,2-dimethyltetrahydro-2H-pyran | 158 mg | BrCC1CC(OCC1)(C)C | C8H15BrO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-Butyloxy-9-[(2,2-dimethyltetrahydro-2H-pyran-4-yl)methyl]-8-methoxy-9H-purin-6-amine | 181 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CC(OCC1)(C)C)OC)N | C18H29N5O3
